US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-6-benzyloxy-7-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-6-benzyloxy-7-methoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with benzylamine

reactant | 1-(3,4-Dimethoxy-benzyl)-6-benzyloxy-7-methoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=CC(=C(C=C23)OC)OCC2=CC=CC=C2)C=CC1OC | C26H29NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 2-[1-(3,4-Dimethoxy-benzyl)-6-benzyloxy-7-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OCC2=CC=CC=C2)CC(=O)NCC2=CC=CC=C2)C=CC1OC | C35H38N2O5
